US09193720B2
To a solution of 4-methylpiperidine (593 mg, 5.98 mmol) and DIEA (2.1 mL, 12 mmol) in anhydrous CH3CN (15 mL) was added isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate (2.0 g, 5.98 mmol) at rt. The resulting mixture was placed in a pre-heated oil bath (80° C.) and stirred for 24 h; cooled, diluted with ether, washed with water, brine, and dried (MgSO4). The crude product was charged (DCM) to a 80 g ISCO silica gel cartridge and gradient eluted (5-35% EtOAc/hexanes) using an Isolera chromatography station gave isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)-2-oxoacetate 1.99 g (84%). 1H NMR (500 MHz, DMSO-d6) δ 5.08-5.03 (m, 1H), 3.41-3.39 (m, 2H), 2.83 (br. s, 2H), 2.60 (s, 3H), 2.29 (s, 3H), 1.58 (d, J=12.5 Hz, 2H), 1.44 (br. s, 1H), 1.29 (d, J=6.2 Hz, 6H), 1.09-1.07 (m, 2H), 0.92 (d, J=6.2 Hz, 3H). UPLC (M+H)=399.2.

reactant | 4-methylpiperidine | 5.98 mmol, 593 mg | CC1CCNCC1 | C6H13N
reactant | DIEA | 12 mmol, 2.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 5.98 mmol, 2.0 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)Cl | C12H13BrClNO3
solvent | CH3CN | 15 mL | CC#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)-2-oxoacetate | 1.99 g, 84% | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CCC(CC1)C | C18H25BrN2O3
